US06500846B1
Synthesis of 3-(Benzo[1,3]dioxol-5-yl)-1-(5-chloro-2-hydroxyphenyl)-2-propen-1-one
1 g (5.86 mmol) of 5-chloro-2-hydroxyacetophenone, 3 molar equivalents of piperonal, and 3 molar equivalents of sodium hydroxide was mixed in 15 ml of aqueous 80% ethanol solution, and then the mixture was stirred at room temperature for 15 hours. After the reaction was completed, 50 ml of water was added thereto, and the mixture was stirred for about 10 minutes. The obtained pale yellow solid was filtered, washed with water and diethylether, and dried to give 1.42 g (Yield 80%) of the title compound.

reactant | 5-chloro-2-hydroxyacetophenone | 5.86 mmol, 1 g | CC(=O)C1=C(C=CC(=C1)Cl)O | C8H7ClO2
reactant | piperonal | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 3-(Benzo[1,3]dioxol-5-yl)-1-(5-chloro-2-hydroxyphenyl)-2-propen-1-one | 1.42 g, Yield 80% | O1COC2=C1C=CC(=C2)C=CC(=O)C2=C(C=CC(=C2)Cl)O | C16H11ClO4
